US06117987
(+/-) 1-(Methoxyethyloxy)-6-acetyl-1,2,3,4-tetrahydro-4,4-dimethyl-naphthalene (Compound D26)
A solution of (+/-) 1-hydroxy-6-acetyl-1,2,3,4-tetrahydro-4,4-dimethyl-naphthalene (Compound D25, 24.8 mg, 0.11 mmol), chloromethyl methyl ether (0.12 mmol), triethyl amine (0.02 ml, 0.13 mmol) and catalytic amount of tetrabutylammonium bromide in 2 ml of CH2Cl2 was stirred at room temperature for 5 h. Purification by column chromatography (silica) with ethyl acetate/hexane (1/10) afforded the title compound as an oil (17.8 mg).

reactant | (+/-) 1-hydroxy-6-acetyl-1,2,3,4-tetrahydro-4,4-dimethyl-naphthalene | 0.11 mmol, 24.8 mg | OC1CCC(C2=CC(=CC=C12)C(C)=O)(C)C | C14H18O2
reactant | chloromethyl methyl ether | 0.12 mmol | COCCl | C2H5ClO
reactant | triethyl amine | 0.13 mmol, 0.02 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (+/-) 1-(Methoxyethyloxy)-6-acetyl-1,2,3,4-tetrahydro-4,4-dimethyl-naphthalene | 17.8 mg | COCCOC1CCC(C2=CC(=CC=C12)C(C)=O)(C)C | C17H24O3
